US08754226B2
(S)-tert-butyl 3-(2,5-difluoro-4-(methylsulfonyl)phenylamino)-2-oxo-1,4′-bipiperidine-1′-carboxylate (4.6 g, 9.4 mmol) was dissolved in CH2Cl2 (100 mL) and methanol (10 mL). 4N HCl in dioxane (24 mL, 94 mmol) was added and the reaction stirred at ambient temperature overnight. The reaction was concentrated to provide (S)-3-(2,5-difluoro-4-(methylsulfonyl)phenylamino)-1,4′-bipiperidin-2-one hydrochloride, which was used directly in the next step without purification.

reactant | (S)-tert-butyl 3-(2,5-difluoro-4-(methylsulfonyl)phenylamino)-2-oxo-1,4′-bipiperidine-1′-carboxylate | 9.4 mmol, 4.6 g | FC1=C(C=C(C(=C1)S(=O)(=O)C)F)N[C@@H]1C(N(CCC1)C1CCN(CC1)C(=O)OC(C)(C)C)=O | C22H31F2N3O5S
reactant | HCl | 4N | Cl | ClH
reactant | dioxane | 94 mmol, 24 mL | O1CCOCC1 | C4H8O2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
solvent | methanol | 10 mL | CO | CH4O
product | (S)-3-(2,5-difluoro-4-(methylsulfonyl)phenylamino)-1,4′-bipiperidin-2-one hydrochloride | Cl.FC1=C(C=C(C(=C1)S(=O)(=O)C)F)N[C@@H]1C(N(CCC1)C1CCNCC1)=O | InChI=1S/C17H23F2N3O3S.ClH/c1-26(24,25)16-10-12(18)15(9-13(16)19)21-14-3-2-8-22(17(14)23)11-4-6-20-7-5-11;/h9-11,14,20-21H,2-8H2,1H3;1H/t14-;/m0./s1
